US07427683B2
c) 4-N,N-Dimethyl-2-piperidin-1-yl-benzene-1,4-diamine
Using a procedure similar to Example 3, step (c), dimethyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine (100 mg, 0.4 mmol, as prepared in the previous step) was stirred with 80 mg 5% Pd—C in 5 mL MeOH under H2 to afford 89 mg (100%) of the title compound as an oil, which was used immediately without further purification. Mass spectrum (ESI, m/z) calcd. for C13H21N3, 220.1 (M+H), found 220.1.

reactant | dimethyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine | CN(C1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1)C | C13H19N3O2
reactant | MeOH | 5 mL | CO | CH4O
catalyst | Pd—C | 80 mg | [Pd] | Pd
product | 4-N,N-Dimethyl-2-piperidin-1-yl-benzene-1,4-diamine | 89 mg, 100% | CNC1=CC(=C(C=C1)NC)N1CCCCC1 | C13H21N3
